US07442805B2
Synthesis of 1-(1,1′-biphenyl-4-ylmethyl)-3-phenyl-5-[(phenylsulfonyl)amino]-1H-indole-2-carboxylic acid
The title compound was prepared from ethyl 5-amino-1-(1,1′-biphenyl-4-ylmethyl)-3-phenyl-1H-indole-2-carboxylate and phenylsulfonyl chloride followed the procedure of Example 1 Step 3 as a pale yellow solid: 1H NMR (DMSO-d6) δ 5.81 (s, 2H; 7.05-7.10 (m, 1H), 7.16 (d, J=8.3 Hz, 2H, 7.27 (d, J=8.3 Hz, 2H, 7.30-7.40 (m, 2H, 7.40-7.50 (m, 4H, 7.50-7.70 (m, 11H, 9.93 (s, 1H, 13.03 (br s, 1H; MS (ESI) m/z 557 [M-H]−; HRMS calcd for C34H27N2O4S: 559.1689; found (ESI+): 559.1688; Anal. calcd for C34H26N2O4S.0.5H2O: C, 71.94; H, 4.79; N, 4.94. Found: C, 71.81; H, 4.79; N, 5.07.

reactant | ethyl 5-amino-1-(1,1′-biphenyl-4-ylmethyl)-3-phenyl-1H-indole-2-carboxylate | NC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C1=CC=CC=C1)C(=O)OCC)C1=CC=CC=C1 | C30H26N2O2
reactant | phenylsulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 1-(1,1′-biphenyl-4-ylmethyl)-3-phenyl-5-[(phenylsulfonyl)amino]-1H-indole-2-carboxylic acid | C1(=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)NS(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O)C1=CC=CC=C1 | C34H26N2O4S
